US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-methylisoxazole-3-carboxamide
Using 5-methylisoxazole-3-carboxylic acid (87 mg, 0.679 mmol), N,N-dimethylformamide (1 drop), oxalyl chloride (75.8 μL, 0.88 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (140 mg, 0.453 mmol), triethylamine (138 mg, 1.36 mmol) and tetrahydrofuran (15 mL) as starting materials and in the same manner as in Example 109, the title compound (109 mg, 58%) was obtained as a white powder.

reactant | 5-methylisoxazole-3-carboxylic acid | 0.679 mmol, 87 mg | CC1=CC(=NO1)C(=O)O | C5H5NO3
reactant | oxalyl chloride | 0.88 mmol, 75.8 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.453 mmol, 140 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | triethylamine | 1.36 mmol, 138 mg | C(C)N(CC)CC | C6H15N
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-methylisoxazole-3-carboxamide | 109 mg, 58% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NOC(=C2)C)C1 | C21H18N6O4
